US07482354B2
Ethyl 8-hydroxy-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate [B00-X03-M00(C01)-D01]
1.5 g (5.2 mmol) of ethyl 8-methoxy-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate were dissolved in 90 mL of acetonitrile and 1.6 g (10.6 mmol) of sodium iodide and 1.5 mL of trimethylsilylchloride were added. After a day under stirring and nitrogen atmosphere at room temperature the solvent was evaporated, the residue redissolved with a mixture dichloromethane/methanol 4/1 and washed with a saturated aqueous solution of Na2S2O3. The organic layer was dried over Na2SO4 and evaporated to dryness. The residue crystallized from methanol leading 1.1 g of the title compound (78% yield).

reactant | ethyl 8-methoxy-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 5.2 mmol, 1.5 g | COC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)OCC | C14H16N4O3
reactant | sodium iodide | 10.6 mmol, 1.6 g | [I-].[Na+]
reactant | trimethylsilylchloride | 1.5 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | methanol | 1.1 g | CO | CH4O
solvent | acetonitrile | 90 mL | C(C)#N | C2H3N
product | Ethyl 8-hydroxy-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 78% yield | OC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)OCC | C13H14N4O3
